US05466692
8-[(4-Bromophenyl)methyl]-4-methyl-2-methoxymethyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one
A mixture of ethyl 3-(4-chloro-6-methyl-2-methoxymethylpyrimidin-5-yl)propionate (3.6 g, 0.013 mol), 4-bromobenzylamine hydrochloride (3.0 g, 0.013 mol), NaHCO3 (2.4 g, 0.028 mol), and nBuOH (25 mL) was heated under reflux for 24 h. The mixture was concentrated, taken up in water, and extracted with CH2Cl2. The combined extracts were dried (MgSO4) and concentrated to give a brown oil. Purification by flash chromatography (5% MeOH/CH2Cl2) gave 3.6 g (72%) of product as an off-white solid, mp 64°-66° C.

reactant | ethyl 3-(4-chloro-6-methyl-2-methoxymethylpyrimidin-5-yl)propionate | 0.013 mol, 3.6 g | ClC1=NC(=NC(=C1CCC(=O)OCC)C)COC | C12H17ClN2O3
reactant | 4-bromobenzylamine hydrochloride | 0.013 mol, 3.0 g | Cl.BrC1=CC=C(CN)C=C1
reactant | NaHCO3 | 0.028 mol, 2.4 g | C(=O)(O)[O-].[Na+]
solvent | nBuOH | 25 mL | C(CCC)O | C4H10O
product | 8-[(4-Bromophenyl)methyl]-4-methyl-2-methoxymethyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 3.6 g, 72% | BrC1=CC=C(C=C1)CN1C(CCC2=C1N=C(N=C2C)COC)=O | C17H18BrN3O2
